US06953806B2
A solution of 24.2 g (90.5 mmol) trans-[4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexyl]-acetonitrile, of 22 ml (270 mmol) chloroform and of 2.4 g platinum dioxide (Degussa 223) in 250 ml ethanol was stirred at room temperature for 20 hours under a hydrogen atmosphere. The catalyst was then removed by filtration and the solvent evaporated under reduced pressure giving 17.1 g (97.3%) of pure trans-[4-(2-amino-ethyl)-cyclohexyl]-methanol HCl-salt as colorless solid, MS: 158 (MH+).

reactant | trans-[4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexyl]-acetonitrile | 90.5 mmol, 24.2 g | C(C)(C)(C)[SiH2]OC([C@@H]1CC[C@H](CC1)CC#N)(C)C | C15H29NOSi
reactant | chloroform | 270 mmol, 22 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 2.4 g | [Pt](=O)=O
product | trans-[4-(2-amino-ethyl)-cyclohexyl]-methanol HCl-salt | 17.1 g, 97.3% | Cl.NCC[C@@H]1CC[C@H](CC1)CO | InChI=1S/C9H19NO.ClH/c10-6-5-8-1-3-9(7-11)4-2-8;/h8-9,11H,1-7,10H2;1H/t8-,9-;
